US06514971B1
A solution of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)cinnoline hydrochloride (150 mg, 0.36 mmol), (prepared as described for the starting material in Example 12), 4-chloro-2-fluoroaniline (77 mg, 0.53 mmol) in 2-pentanol (4 ml) and 5M isopropanolic hydrogen chloride (1 ml) was heated at 120° C. for 1 hour. The mixture was allowed to cool and isopropanol was added. The resulting precipitate was collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3-morpholinopropoxy)cinnoline hydrochloride (185 mg, 98%).

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)cinnoline hydrochloride | 0.36 mmol, 150 mg | Cl.ClC1=CN=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1
reactant | 4-chloro-2-fluoroaniline | 0.53 mmol, 77 mg | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | 2-pentanol | 4 ml | CC(CCC)O | C5H12O
solvent | hydrogen chloride | 5M, 1 ml | Cl | ClH
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3-morpholinopropoxy)cinnoline hydrochloride | 185 mg, 98% | Cl.ClC1=CC(=C(NC2=CN=NC3=CC(=C(C=C23)OC)OCCCN2CCOCC2)C=C1)F | InChI=1S/C22H24ClFN4O3.ClH/c1-29-21-12-16-19(13-22(21)31-8-2-5-28-6-9-30-10-7-28)27-25-14-20(16)26-18-4-3-15(23)11-17(18)24;/h3-4,11-14H,2,5-10H2,1H3,(H,26,27);1H
